US05211889
The following experimental procedure is representative of the reactions set forth below in Table I. Highly reactive calcium (3.07 mmol), prepared from lithium biphenylide (6.15 mmol) and excess CaI2 (4.91 mmol) in THF (30 mL), was cooled to -78° C. The color turned green upon cooling. An organocalcium reagent was prepared by adding p-chlorotoluene (324 mg, 2.56 mmol) to this mixture via a disposable syringe at -78° C. The reaction mixture was allowed to warm to -20° C. It was stirred at -20° C. for 30 minutes. The reaction mixture was then cooled to -35° C. A Grignard-type reaction was carried out by adding excess cyclohexanone (510 mg, 5.20 mmol) to the solution of the organocalcium reagent via a disposable syringe at -35° C. The resulting mixture was gradually warmed to room temperature and was stirred at room temperature for 30 minutes. The reaction mixture was again cooled to -35° C. Neutral H2O (distilled water, 20 mL) was added at -35° C. After being warmed to room temperature, the reaction mixture was filtered through a small pad of Celite™ filter agent (available from Aldrich Chemical Co., Milwaukee, Wis.) and was washed with Et2O (50 mL). The aqueous layer was extracted with Et2O (3×30 mL). The combined organic phases were washed with H2O (15 mL), and dried over anhydrous MgSO4. Removal of solvent and flash-column chromatography on silica gel (100 g, 230-400 mesh, available from EM Science; Gibbstown, N.J.) afforded 1-(p-methylphenyl)cyclohexanol (417 mg, 86% yield) as white crystals: mp 53°-55° C.; IR (KBr) 3419, 3030, 2935, 2843, 1514, 1446, 1392, 1134, 1036, 964, 810 cm1 ; 1H NMR (200 MHz, CDCl3) δ 7.35-7.45 (m, 2 H), 7.10-7.20 (m, 2 H), 2.33 (s, 3 H), 1.55-1.85 (m, 11 H); 13C NMR (50 MHz, CDCl3) δ 146.5, 136.2, 128.9, 124.5, 72.9, 38.9, 25.5, 22.2, 20.9. Known compound: IR, see Sadtler 36367; 1H-NMR, see Sadtler 21529; 13C-NMR, see Sadtler 5269.

reactant | calcium | 3.07 mmol | [Ca] | Ca
reactant | lithium biphenylide | 6.15 mmol | C1(=[C-]C=CC=C1)C1=[C-]C=CC=C1.[Li+].[Li+]
reactant | CaI2 | 4.91 mmol | [I-].[I-].[Ca+2]
reactant | p-chlorotoluene | 2.56 mmol, 324 mg | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | cyclohexanone | 5.20 mmol, 510 mg | C1(CCCCC1)=O | C6H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
product | 1-(p-methylphenyl)cyclohexanol | 417 mg, 86% yield | CC1=CC=C(C=C1)C1(CCCCC1)O | C13H18O
